US07129243B2
tert-Butyl 4-(1,3-thiazol-2-yloxy)-1-piperidinecarboxylate
To a slurry of sodium hydride (about 60% oil suspension, 5.67 g) in dimethoxyethane (40 ml) was added a solution of tert-butyl 4-hydroxy-1-piperidinecarboxylate (23.9 g) in dimethoxyethane (60 ml) over 30 minutes, and the mixture was stirred for an additional 1 hour. To the mixture was added 2-bromothiazole (15.0 g), and the mixture was refluxed for 4 hours. After cooling, the resulting pale brown suspension was diluted with ether (300 ml) and the mixture was filtered through a pad of Celite. The filtrate was washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residual oil was purified by silica gel column chromatography (eluent; 15% ethyl acetate in n-hexane) to give the title compound (22.1 g) as a yellow oil.

reactant | sodium hydride | 5.67 g | [H-].[Na+]
reactant | tert-butyl 4-hydroxy-1-piperidinecarboxylate | 23.9 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 2-bromothiazole | 15.0 g | BrC=1SC=CN1 | C3H2BrNS
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
solvent | ether | 300 ml | CCOCC | C4H10O
product | tert-Butyl 4-(1,3-thiazol-2-yloxy)-1-piperidinecarboxylate | 22.1 g | S1C(=NC=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C13H20N2O3S
